US08097610B2
Preparation of 4-(2-hydroxyethyl)-3,5-dimethyl piperazine-1-carboxylic acid t-butyl ester
3,5-Dimethyl carbonyl piperazine-1-carboxylic acid t-butyl ester derived from the above reaction was dissolved in THF (300 mL) and lithium aluminium hydride (3.31 g) was added thereto under ice-cooling. After stirring at 0° C. for 1 hour, water and 2N aqueous sodium hydroxide solution was sequentially added. After filtration of the insoluble material, the filtrate was concentrated under reduced pressure to give the title compound (20.3 g). Yield: 90%.

reactant | 3,5-Dimethyl carbonyl piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C(C(NC(C1)C)C)=C=O | C12H20N2O3
reactant | lithium aluminium hydride | 3.31 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | THF | 300 mL | C1CCOC1 | C4H8O
product | 4-(2-hydroxyethyl)-3,5-dimethyl piperazine-1-carboxylic acid t-butyl ester | 20.3 g, Yield: 90% | C(C)(C)(C)OC(=O)N1CC(N(C(C1)C)CCO)C | C13H26N2O3
